US07977338B2
Step 3.2: (2-Chloro-4-imidazo[4,5-b]pyridin-3-yl-phenyl)-acetic acid ethyl ester
is obtained analogously to the method as described in Step 1.2 but using [4-(3-amino-pyridin-2-ylamino)-2-chloro-phenyl]-acetic acid ethyl ester instead of [4-(3-amino-pyridin-2-ylamino)-phenyl]-acetic acid methyl ester as a starting material. ES-MS: 316.1 [M+H]+; single peak at tR=4.24 min (System 1); Rf=0.16 (Hexane/EtOAc, 1:1).

reactant | [4-(3-amino-pyridin-2-ylamino)-2-chloro-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=C(C=C(C=C1)NC1=NC=CC=C1N)Cl)=O | C15H16ClN3O2
reactant | Hexane EtOAc | CCCCCC.CCOC(=O)C
product | (2-Chloro-4-imidazo[4,5-b]pyridin-3-yl-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=C(C=C1)N1C=NC=2C1=NC=CC2)Cl)=O | C16H14ClN3O2
